US08076488B2
Step 2: Preparation of the title compound 4-(4-Aminophenoxy)pyridine-2-carboxylic acid methylcarbamoylmethylamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)-pyridine-2-carboxamide, substituting of 4-chloropyridine-2-carboxylic acid N-methylcarbamoylmethylamide for 4-chloro-N-methyl-pyridine-2-carboxamide.

reactant | 4-(4-aminophenoxy)-pyridine-2-carboxamide | NC1=CC=C(OC2=CC(=NC=C2)C(=O)N)C=C1 | C12H11N3O2
reactant | 4-chloro-N-methyl-pyridine-2-carboxamide | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
product | 4-(4-Aminophenoxy)pyridine-2-carboxylic acid methylcarbamoylmethylamide | CNC(=O)CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C15H16N4O3
